US05519021
Step B: (±) 6-Chloro-4-phenylethynyl-4-trifluoromethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one (Compound 12)
A solution of 2-(2-amino-5-chlorophenyl)-4-phenyl-1,1,1-trifluoro-3-butyn-2-ol (2.0 g, 6.1 mmol) and 11.0 g (12.0 mmol) of 1,1'-carbonyldiimidazole in 300 mL of dry THF was stirred under argon at 55° C. for 24 hours. The solvent was removed on a rotary evaporator and the residue was partitioned between 200 mL of ether and 400 mL of water. The layers were separated and the aqueous extracted once more with ether. The combined ether extracts were washed with 2×200 mL 10% citric acid and then with brine before drying over MgSO4. Removal of the drying agent and solvent provided 1.5 g (70%) of the crude title compound as an oil. Trituration with ether-hexane afforded 875 mg of (±) 6-chloro-4-phenylethynyl-4-trifluoromethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one as a white solid, partial melt at 137°, clear at 147° C. 1H-NMR (CDCl3): δ6.92 (d, J=8 Hz, 1H), 7.30-7.49 (m, 4H), 7.58-7.65 (m, 3H), 8.99 (s, 1H).

reactant | 2-(2-amino-5-chlorophenyl)-4-phenyl-1,1,1-trifluoro-3-butyn-2-ol | 6.1 mmol, 2.0 g | NC1=C(C=C(C=C1)Cl)C(C(F)(F)F)(C#CC1=CC=CC=C1)O | C16H11ClF3NO
reactant | 1,1'-carbonyldiimidazole | 12.0 mmol, 11.0 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | (±) 6-chloro-4-phenylethynyl-4-trifluoromethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | 875 mg | ClC=1C=CC2=C(C(OC(N2)=O)(C(F)(F)F)C#CC2=CC=CC=C2)C1 | C17H9ClF3NO2
